US04061761
3-Ethyl-4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-1,3-thiazolidine-4-ol-hydrochloride
6.2 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.92 g of 1-ethyl-3-isopropylthiourea were heated in 40 ml of acetone for 15 minutes to 40° C, the mixture was stirred for another 30 minutes at room temperature and the crystals were filtered.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 6.2 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-ethyl-3-isopropylthiourea | 2.92 g | C(C)NC(=S)NC(C)C | C6H14N2S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3-Ethyl-4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NC(C)C | InChI=1S/C14H20ClN3O3S2.ClH/c1-4-18-13(17-9(2)3)22-8-14(18,19)10-5-6-11(15)12(7-10)23(16,20)21;/h5-7,9,19H,4,8H2,1-3H3,(H2,16,20,21);1H
